US07528162B2
Part B: A mixture of 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide (1.42 gram, 3.00 mmol) and phosphorus pentachloride (PCl5) (0.63 gram, 3.03 mmol) in chlorobenzene (15 mL) is heated at reflux temperature for 1 hour. After thorough concentration in vacuo, the formed 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboximidoyl chloride is suspended in dry dichloromethane (30 mL) and reacted with 1-aminopiperidine (1.08 mL, 10.0 mmol). After stirring at room temperature for 16 hours, the mixture is twice washed with water and concentrated in vacuo. The residue is crystallised from methyl-t-butyl ether (MTBE) to give pure 3-(4-chlorophenyl)-N′-((4-chlorophenyl)sulfonyl)-N-(piperidin-1-yl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamidine (0.57 gram, 34% yield). Melting point (MP): 213-214° C. MS ESI+: 556 (MH+).

reactant | 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 3.00 mmol, 1.42 gram | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)Cl | C22H17Cl2N3O3S
reactant | phosphorus pentachloride | 3.03 mmol, 0.63 gram | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-aminopiperidine | 10.0 mmol, 1.08 mL | NN1CCCCC1 | C5H12N2
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(4-chlorophenyl)-N′-((4-chlorophenyl)sulfonyl)-N-(piperidin-1-yl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamidine | 0.57 gram, 34% yield | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(=NS(=O)(=O)C1=CC=C(C=C1)Cl)NN1CCCCC1 | C27H27Cl2N5O2S
